data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8006,"CC1CC[C+:1]2C=CC=C[C:2]12[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1498,"[CH2:1]=[OH+:2].[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2203,"N#CCC(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][Li:2].[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9773,"CC[O:1]C(C)(O)OC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1349,"O[C:1](OCC[OH:2])=[NH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1672,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2=CC=CC=C2)CC1C1=CC=CC=C1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1469,"C[Si](C)(C)[O:1]CC[O+:2]=[CH:3]C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6911,"CC(O)C[NH2:1].N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4698,"CC(=O)C1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,9968,"Br[C:1]1=[CH:2]OC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,2109,"CCOC(=O)C(C(C)=O)[CH:1]([H:2])[C:3](C)=[NH+:4]C.C[NH2:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5373,"CC(C1=CC=CC=C1)[C+:1](C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,3442,"CC(=O)CCC(C1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)(C(C)C)[O:1][H:2].CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,654,"C1=CN=CC(C2=CC3CC(C2)C[N+:1](=[CH2:2])C3)=C1.O.O=[C:3]([H:4])[O-:5]|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8547,"C#CC[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1171,"CC(=O)CCC([NH2+]C1=CC=C(F)C=C1)(C1=CC=C(S(C)(=O)=O)C=C1)[O-:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3113,"CCO[I:1]1(OC(C)=O)([O:2][C:3](C)=[OH+:4])OC(=O)C2=C1C=CC=C2|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7131,"CO.COC1=C(OC)C=C(C2=C(C)[C:1](C)([H:2])[C:3](C3=CC(OC)=C(OC)C=C3)=[O+:4]2)C=C1.[Cl-].[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7353,"O=C([O-])C(CC1=CC=CC=C1)[NH+:1](C([O-])(OCC1C2=CC=CC=C2C2=C1C=CC=C2)ON1C(=O)CCC1=O)[H:2].O=C([O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2933,"CS(=O)(=O)[O:1][CH2:2]C(C1=CC=CC=C1)N1C2=C(C=CC=C2)C2=C1C([O:3]C)=CC=C2.[I-].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4599,"COC1=CC=C([N+:1](C)(C2CC3=C(CC2O)C(OC)=CC=C3OC)[H:2])C=C1.O=C([O-])[O-:3].[I-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3179,"CC(C)C(C(=O)O)[NH:1][C:2]1=[C:3](C)[C:4]2([OH2+:5])CCC(=O)C2(C)CC1.CC(C)C(N)C(=O)[O-].O|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4343,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[C:1](C)([OH+:2]C)[O:3]CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10240,"[O-][CH:1]=[SH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9112,"C[P+:1](C)(C)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1481,"CCOCC.CC[O:1][B-](F)(F)F.COCOC(C)C1CC=C(C)C(C[C+]2C([Si:2](C)(C)C)CC(C(C)C)C2(C)CO[Si](C)(C)C(C)(C)C)O1|(1, 2)"
train,pmechdb_split_0,0,8662,"C=C(COCC1=CC=CC=C1)CC(C)CC(O[Si](C(C)C)(C(C)C)C(C)C)C(C=[O:1])O[Si](C)(C)C.C=C([O][Li:2])C(C)CC(C)CN=[N+]=[N-]|(1, 2)"
train,pmechdb_split_0,0,6796,"C[S:1][Cl:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7515,"CC(=O)OC1C(OC(C)=O)C(C)[O+:1]=[C:2](C2=CC=C(C)C=C2)C1OC(C)=O.CC[Si-:3](CC)(CC)([O+](C)[B-](F)(F)F)[H:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4033,"[CH3][Mg-]([Cl])[P+:1](Cl)(Cl)Cl.[Cl][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,10171,"N[CH:1]=[SH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,405,"CC(O)CC(C)[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2005,"CC(=O)O.CCC(C)(C)O[C:1](C)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5434,"CCC[CH2][Sn:1]([CH2]CCC)([CH2]CCC)[C]1(CN(C)C)C=CC(=[O+]C)C=C1.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,1944,"CO[PH](OC)=[O:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6814,"C1OC[C:1]1=[O:2].CC(=O)O.CC1(C)C2=C(C=C(Br)C(N3CC[NH:3]CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.[BH3-]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2639,"CC[OH+:1][C:2](O)(CC(=O)O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4430,"C[P:1](C)C.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1213,"CCCC(CC(=O)N(C)CC)C(CCC)[N:1]=[N:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9655,"CC(C)(C)[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3781,"CCC(=O)N[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,145,"CCC=CC(NC(=O)OCC1=CC=CC=C1)C(=O)OC.[Br][Mg+:1].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,1578,"C[SH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9981,"CO[C:1]1=[CH:2]C=CC=C1Br.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,8135,"O=C(O)C1=CC=CC=C1[N+:1](=NO)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6385,"C[CH+:1]CCCO[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,6844,"CO[C:1](=[O:2])[CH:3]=[CH2:4].O[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1023,"CC12CCC(=[O+:1][H:2])C=C1CCC2=O.O.O=C([O-])C1CCC[NH:3]1|(3, 2);((2, 1), 1)"
